US06080872
N-(2-Hydroxyethyl)-1,2,3,6-tetrahydrophthalimide (195.2 g, 1 mol) was dissolved in diisobutyl hexahydrophthalate (142.2 g, 0.5 mol). The mixture was treated as described in example 1 to obtain 266 g of brown crude bis[2-(1,2,3,6-tetrahydrophthalimido)ethyl] hexahydrophthalate.

reactant | N-(2-Hydroxyethyl)-1,2,3,6-tetrahydrophthalimide | 1 mol, 195.2 g | OCCN1C(C2C(C1=O)CC=CC2)=O | C10H13NO3
reactant | diisobutyl hexahydrophthalate | 0.5 mol, 142.2 g | C(C1C(C(=O)OCC(C)C)CCCC1)(=O)OCC(C)C | C16H28O4
product | bis[2-(1,2,3,6-tetrahydrophthalimido)ethyl] hexahydrophthalate | 266 g | C(C1C(C(=O)OCCN2C(C3C(C2=O)CC=CC3)=O)CCCC1)(=O)OCCN1C(C3C(C1=O)CC=CC3)=O | C28H34N2O8
